US08497384B2
Synthesis of Dimethyldiazomalonate
9.9 g. (0.075 mole) of dimethyl malonate, 50 ml of anhydrous acetonitrile, and 7.6 g (0.075 mole) of triethylamine (b.p. 88.5-90.5° C.) were added to a 300 ml double-jacketed flask with a dropping funnel, reflux condenser and mechanical stirrer (Rushton). The temperature of the mixture was adjusted to 20° C., and 14.8 g (0.075 mole) of p-toluenesulfonyl azide in 50 ml of CH3CN is added dropwise with vigorous stirring over 15 minutes. The addition caused the reaction mixture to warm to 38-40° C. and assume a yellow colour. After the mixture had been stirred at room temperature for 2.5 hours, the solvent was evaporated at 35° C. (12 mm). The partially crystalline residue was triturated with 100 ml of ether, and the mixture, including the insoluble residue, was placed in a 500 ml separatory funnel. The mixture was washed successively with a 50 ml solution of potassium hydroxide (2N) and a 50 ml solution of potassium hydroxide (0.5N) solution. The yellow-orange ethereal phase was dried over anhydrous sodium sulfate, and the solvent evaporated at 35° (15 mm) until the residue had attained a constant weight. The yellow-orange diazo ester weighed 5 g. The product was checked by 1HNMR spectroscopy and found to be ca. 90% pure.

reactant | dimethyl malonate | 0.075 mole | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | triethylamine | 0.075 mole, 7.6 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl azide | 0.075 mole, 14.8 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | CH3CN | 50 ml | CC#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Dimethyldiazomalonate | COC(C(C(=O)OC)=[N+]=[N-])=O | C5H6N2O4
